US07888464B2
Step 1a: Preparation of (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid methyl ester
To a mixture of (S)-methyl 2-amino-3,3-dimethylbutanoate (200 mg, 1.377 mmol) and DIEA (0.481 mL, 2.75 mmol) in DCM (2 mL) solution was added 1-adamantyl isocyanate (334 mg, 1.515 mmol). The reaction mixture was stirred at rt overnight. The compound was purified by silica gel column chromatography (20% EtOAc/80% hexane) to give a white solid (265 mg, 59%) as product.

reactant | (S)-methyl 2-amino-3,3-dimethylbutanoate | 1.377 mmol, 200 mg | N[C@H](C(=O)OC)C(C)(C)C | C7H15NO2
reactant | DIEA | 2.75 mmol, 0.481 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-adamantyl isocyanate | 1.515 mmol, 334 mg | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid methyl ester | 265 mg, 59% | COC([C@H](C(C)(C)C)NC(=O)NC12CC3CC(CC(C1)C3)C2)=O | C18H30N2O3
